US05859007
To a stirred solution of 1.16 g (6.32 mmol) of N-Phenyl phenylenediamine in 15 mL of DMF is added 1.05 g (7.58 mmol, 1.2 equiv) of K2CO3 and 2.05 g (6.32 mmol) of Bromomethyl-N-isopropyl-N-(4-trifluoromethyl-phenyl) acetamide. The resulting mixture is stirred 1 h at RT then is heated to 50° C. for 16 h. The reaction mixture is then cooled to RT, poured into 100 mL H2O and extracted with Et2O (2×100 mL). The organic layers were washed in series with 1N HCl (2×80 mL), NaHCO3 (1×80 mL), and H2O (1×80 mL), dried (MgSO4), and the solvent removed in vacuo. Purification of the crude material by silica gel flash column chromatography using hexane/EtOAc 5/1 as eluent afforded 2.05 g of N-Isopropyl-2-(2-phenylamino-phenylamino)-N-(4-trifluoromethyl-phenyl)-acetamide as a light tan solid: 1H NMR (CDCl3, 400 MHz) δ7.72 (d, 2H, J=8.2), 7.26 (d, 2H, J=8.2), 7.15 (m, 3H), 6.95 (dd, 1H, J=7.7, 7.7), 6.80 (dd, 1H, J=7.1, 7.1), 6.74 (d, 2H, J=7.9), 6.68 (dd, 1H, J=7.4, 7.4), 6.29 (d, 1H, J=7.9), 5.20 (s, 1H), 5.00 (m, 1H), 3.40 (s, 2H), 1.06 (d, 6H, J=6.6); low resolution MS (FAB)m/e 427 (MH+); high resolution MS (C24H24F3N3O) Calc. 427.1871 Found 427.1871.

reactant | N-Phenyl phenylenediamine | 6.32 mmol, 1.16 g | C1(=CC=CC=C1)NC1=C(C=CC=C1)N | C12H12N2
reactant | K2CO3 | 7.58 mmol, 1.05 g, 1.2 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | Bromomethyl-N-isopropyl-N-(4-trifluoromethyl-phenyl) acetamide | 6.32 mmol, 2.05 g | BrCCC(=O)N(C1=CC=C(C=C1)C(F)(F)F)C(C)C | C13H15BrF3NO
reactant | H2O | 100 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N-Isopropyl-2-(2-phenylamino-phenylamino)-N-(4-trifluoromethyl-phenyl)-acetamide | 2.05 g | C(C)(C)N(C(CNC1=C(C=CC=C1)NC1=CC=CC=C1)=O)C1=CC=C(C=C1)C(F)(F)F | C24H24F3N3O
